US08497281B2
(1H-Benzoimidazol-5-yl)-(cis-6-hydroxy-7-nitro-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl)-methanone
The title compound is prepared from 1H-benzoimidazole-5-carboxylic acid and cis-7-nitro-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridin-6-ol following a procedure analogous to that described in Example 1. Yield: 32% of theory; LC (method 1): tR=2.43 min; Mass spectrum (ESI+): m/z=379 [M+H]+.

reactant | 1H-benzoimidazole-5-carboxylic acid | N1C=NC2=C1C=CC(=C2)C(=O)O | C8H6N2O2
reactant | cis-7-nitro-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridin-6-ol | [N+](=O)([O-])C1=CC=2C[C@@H]3NCCC[C@@H]3C2C=C1O | C12H14N2O3
product | (1H-Benzoimidazol-5-yl)-(cis-6-hydroxy-7-nitro-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl)-methanone | Yield: 32% | N1C=NC2=C1C=CC(=C2)C(=O)N2[C@@H]1[C@H](CCC2)C=2C=C(C(=CC2C1)[N+](=O)[O-])O | C20H18N4O4
